US07105544B2
N-{3-[1-(3-{[BROMO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE
Example 9 was prepared from bromo(phenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: ESMS m/e: 500.0 (M+H)+.

reactant | bromo(phenyl)acetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-{3-[1-(3-{[BROMO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | BrC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C26H34BrN3O2
